US05464852
A mixture of 2-chloromethyl-4-isopropyl-6-methoxysaccharin (0.25 g) and 1-phenyltetrazole-5-thiol sodium salt (0.173 g) in dimethylformamide (10 mL) was heated at 60°-80° C. for 8 hours, then poured into ice-water containing saturated aqueous sodium bicarbonate. The resulting mixture was extracted with ether. The ether extract was washed with water and saturated aqueous sodium chloride, passed through silica gel and is stripped of ether affording 2-(1-phenyltetrazol-5-yl)thiomethyl-4-isopropyl-6-methoxysaccharin as a foam (0.3 g, 83% yield).

reactant | 2-chloromethyl-4-isopropyl-6-methoxysaccharin | 0.25 g | ClCN1S(=O)(=O)C2=CC(=CC(=C2C1=O)C(C)C)OC | C12H14ClNO4S
reactant | 1-phenyltetrazole-5-thiol sodium salt | 0.173 g | [Na].C1(=CC=CC=C1)N1N=NN=C1S
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2-(1-phenyltetrazol-5-yl)thiomethyl-4-isopropyl-6-methoxysaccharin | 0.3 g, 83% yield | C1(=CC=CC=C1)N1N=NN=C1SCN1S(=O)(=O)C2=CC(=CC(=C2C1=O)C(C)C)OC | C19H19N5O4S2
